US08119627B2
A solution of 2-(4-chlorophenoxy)benzylamine (AMR01073, 100 mg, 0.428 mmol), 1-acetylpiperidone (121 mg, 0.856 mmol) and acetic acid (0.13 mL, 2.14 mmol) in DCE (2 mL) was treated with NaBH(OAc)3 (227 mg, 1.07 mmol) and stirred under microwave irradiation for 15 min at 100° C. The reaction mixture was diluted with DCM (10 mL) and quenched with saturated NaHCO3 solution. The aqueous layer was washed with DCM (2×20 mL), and the combined organic layers were dried (MgSO4), filtered and evaporated to dryness. Column chromatography on silica gel of the crude product using AcOEt to AcOEt/MeOH 9:1 gradient as eluent gave 1-{4-[2-(4-chlorophenoxy)benzylamino]piperidin-1-yl}ethanone (124 mg, 81%) as a colorless oil. Rf: 0.14 (AcOEt/MeOH 9:1) LC/MS (APCI) tr=4.79 min, m/z 361.46 (35), 359.51 (M++H, 100). HPLC tr=3.04 min (97.37%) 1H NMR (270 MHz, CDCl3) δ 1.25 (2H, m, CH2), 1.68 (br s, NH), 1.79 (2H, m, CH2), 2.05 (3H, S, CH3), 2.67 (2H, m, CH2), 3.02 (1H, m, CH), 3.70 (1H, m, ½CH2), 3.82 (2H, s, CH2), 4.33 (1H, m, ½CH2), 6.84 (2H, AA′BB′, ArH), 6.86 (1H, m, ArH), 7.11 (1H, m, ArH), 7.21 (1H, m, ArH), 7.24 (2H, AA′BB′, ArH) and 7.38 (1H, dd, J=7.2, 1.5 Hz, ArH). 13C NMR (270 MHz, CDCl3) δ 21.10 (CH3), 31.49, 32.32, 39.64, 44.47, 45.05 (CH2), 53.21 (CH), 118.49, 119.04, 124.04, 127.51, 128.30, 129.36, 130.14, 131.02, 153.89, 155.80 (ArC), and 168.42 (C═O).

reactant | 2-(4-chlorophenoxy)benzylamine | 0.428 mmol, 100 mg | ClC1=CC=C(OC2=C(CN)C=CC=C2)C=C1 | C13H12ClNO
reactant | 1-acetylpiperidone | 0.856 mmol, 121 mg | C(C)(=O)N1C(CCCC1)=O | C7H11NO2
reactant | acetic acid | 2.14 mmol, 0.13 mL | C(C)(=O)O | C2H4O2
reactant | NaBH(OAc)3 | 1.07 mmol, 227 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | DCE | 2 mL | ClCCCl | C2H4Cl2
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | 1-{4-[2-(4-chlorophenoxy)benzylamino]piperidin-1-yl}ethanone | 124 mg, 81% | ClC1=CC=C(OC2=C(CNC3CCN(CC3)C(C)=O)C=CC=C2)C=C1 | C20H23ClN2O2
